US05288871
3-[(1H-Imidazo[4,5-c]pyridin-2-ylsulfinyl)methyl]phenol
3-[(1H-Imidazo[4,5-c]pyridin-2-ylsulfinyl)methyl]phenol benzoate (ester) (2.65 g, 0.007 mol) was dissolved in 260 mL of ammonium hydroxide. The reaction mixture was stirred for 1 1/2 hours at room temperature. The ammonia was removed in a rotary evaporator and the reaction mixture was chilled in ice. The precipitate that formed was collected on a filter and rinsed with water giving 1.70 g of product. (m.p. 224°-227° C.) (dec.).

reactant | 3-[(1H-Imidazo[4,5-c]pyridin-2-ylsulfinyl)methyl]phenol benzoate | 0.007 mol, 2.65 g | C(C1=CC=CC=C1)(=O)OC1=CC(=CC=C1)CS(=O)C=1NC2=C(C=NC=C2)N1 | C20H15N3O3S
solvent | ammonium hydroxide | 260 mL | [OH-].[NH4+]
product | 3-[(1H-Imidazo[4,5-c]pyridin-2-ylsulfinyl)methyl]phenol | N1C(=NC=2C=NC=CC21)S(=O)CC=2C=C(C=CC2)O | C13H11N3O2S
